### PR TITLE
feat: formalise Singmaster's conjecture

### LINKED ISSUE #295: Singmaster's conjecture
### What is the conjecture
[Singmaster's conjecture](https://en.wikipedia.org/wiki/Singmaster%27s_conjecture) says that for any integer $t>1$, the number of solutions to the equation  

> $\binom{n}{k} = t,\quad 1 \le k < n,$ 

with $\binom{n}{k}$ being the numbers that appear in Pascal’s triangle, is bounded by a global constant $O(1)$.

### Prerequisites needed
- Formalisation of Pascal’s triangle entries and their multiplicities 

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [X] I plan on working on this conjecture
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by exekis**
Hello! This PR closes #295 and adds [Singmaster's conjecture](https://en.wikipedia.org/wiki/Singmaster%27s_conjecture) under `formal-conjectures/FormalConjectures/Wikipedia/Singmaster.lean`. Please take a look :)

### CODE REVIEW

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import Mathlib.Data.Nat.Choose.Basic
+import Mathlib.Data.Set.Finite.Basic
```
Comment (seewoo5) [inline FormalConjectures/Wikipedia/Singmaster.lean]:
```suggestion
import FormalConjectures.Util.ProblemImports
```
The first line imports whole Mathlib, so I think you don't need any extra imports.

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+-/
+def solutions (t : ℕ) : Set (ℕ × ℕ) :=
+  {p | let (n, k) := p; 1 ≤ k ∧ k < n ∧ Nat.choose n k = t}
+
+end Singmaster
+
+@[category research open, AMS 11]
+theorem singmaster:
+    ∃ (C : ℕ), ∀ (t : ℕ), t > 1 → (Singmaster.solutions t).Finite ∧ (Singmaster.solutions t).ncard ≤ C := by
+    sorry
```
Comment (seewoo5) [inline FormalConjectures/Wikipedia/Singmaster.lean]:
```suggestion
  sorry
```

**Comment by exekis** [comment]
Hi @seewoo5, thanks a lot for reviewing it! I committed the comments, appreciate the suggestions!

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+`Nat.choose n k = t` for a given `t`, under the constraint `1 ≤ k < n`.
+-/
+def solutions (t : ℕ) : Set (ℕ × ℕ) :=
+  {p | let (n, k) := p; 1 ≤ k ∧ k < n ∧ Nat.choose n k = t}
+
+end Singmaster
+
+@[category research open, AMS 11]
+theorem singmaster:
+    ∃ (C : ℕ), ∀ (t : ℕ), t > 1 → (Singmaster.solutions t).Finite ∧ (Singmaster.solutions t).ncard ≤ C := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Singmaster.lean]:
```suggestion
theorem singmaster: ∃ (C : ℕ), ∀ (t : ℕ), t > 1 →
    (Singmaster.solutions t).Finite ∧ (Singmaster.solutions t).ncard ≤ C := by
```
Nit: Trying to keep the 100 chars line limit...

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
...
+/-!
+# Singmaster's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Singmaster%27s_conjecture)
+
+Singmaster's conjecture says that for any integer $t>1$, the number of solutions to the equation:
+
+`$\binom{n}{k} = t,\quad 1 \le k < n,$`
+
+with $\binom{n}{k}$ being the numbers that appear in Pascal's triangle, is bounded by a global constant $O(1)$.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Singmaster.lean]:
```suggestion
with $\binom{n}{k}$ being the numbers that appear in Pascal's triangle, is bounded by a global 
constant $O(1)$.
```
100-chars line limit.

**Comment by exekis** [comment]
Thank you @mo271 for going over it! Just applied your comments and fixed the line max char issue. Appreciate it a lot.

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 5]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+namespace Singmaster
+
+/--
+The set of pairs (n, k) representing the solutions to the equation
+`Nat.choose n k = t` for a given `t`, under the constraint `1 ≤ k < n`.
+-/
+def solutions (t : ℕ) : Set (ℕ × ℕ) :=
+  {p | let (n, k) := p; 1 ≤ k ∧ k < n ∧ Nat.choose n k = t}
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Singmaster.lean]: I'd be tempted to do this
```suggestion
  {(n, k) | 1 ≤ k ∧ k < n ∧ Nat.choose n k = t}
```

File: FormalConjectures/Wikipedia/Singmaster.lean [hunk 6]
```diff
@@ -0,0 +1,46 @@
...
+
+end Singmaster
+
+@[category research open, AMS 11]
+theorem singmaster: ∃ (C : ℕ), ∀ (t : ℕ), t > 1 →
+    (Singmaster.solutions t).Finite ∧ (Singmaster.solutions t).ncard ≤ C := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Singmaster.lean:44]:
```suggestion
  sorry

end Singmaster
```

**Review by Paul-Lez — APPROVED** [review]
Thanks!

**Comment by exekis** [comment]
Thank you so much @Paul-Lez! Appreciate the review :)
